US07897762B2
To a solution of 3-(2-chloro-4-fluoro-5-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (1.4 g, 3.7 mmol) in EtOH (30 mL) was added conc. HCl (0.75 g, 9 mmol), followed by active iron power (2 g, 36 mmol). The reaction was stirred at 50° C. for 6 hours. The reaction was filtered and the filtrate was diluted with water and treated with saturated aq Na2CO3 solution until pH 8. The aqueous mixture was extracted with EtOAc (3×80 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give 3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (1.08 g, 84% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.25 (s, 1 H), 7.30 (d, J=11.2 Hz, 1 H), 6.84 (d, J=8.8 Hz, 1 H), 5.50 (s, 2 H), 4.66 (d, J=14.6 Hz, 1 H), 4.53 (d, J=14.6 Hz, 1 H), 3.27 (s, 3 H), 2.51 (s, 3 H); MS (ESI) m/z: 354.3 [M+H]+.

reactant | 3-(2-chloro-4-fluoro-5-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 3.7 mmol, 1.4 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C14H11ClFN5O3S
reactant | HCl | 9 mmol, 0.75 g | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | iron | [Fe] | Fe
product | 3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.08 g, 84% yield | NC=1C(=CC(=C(C1)N1C(N(C2=NC(=NC=C2C1)SC)C)=O)Cl)F | C14H13ClFN5OS
